US07388015B2
N-{4-Methyl-5-[2-(3-nitro-phenylamino)-pyrimidin-4-yl]-thiazol-2-yl}-methane sulfonamide [56]
A mixture of [4-(2-amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(3-nitro-phenyl)-amine (1.0 mmol, 0.33 g) and methylsulfonyl chloride (2.0 mmol, 0.22 g) in dry DMF (2 mL) was added Et3N (0.28 mL). The reaction mixture was stirred at room temperature for 20 h. After cooling, the mixture was diluted with EtOAc, washed with brine, and dried over MgSO4. The solvent was evaporated and the residue was purified by preparative RP-HPLC using a gradient from 10-70% MeCN in 0.1% aq CF3COOH over 40 min. The title compound was obtained as an orange solid. Anal. RP-HPLC: tR=17.4 min (0-60% MeCN in 0.1% aq CF3COOH over 20 min, 1 mL/min, purity>97%). 1H-NMR (DMSO-d6) δ: 3.10 (s, 3H, CH3), 3.25 (s, 3H, CH3), 7.05 (d, 1H, J=5.2 Hz, pyrimidinyl-H), 7.42 (m, 1H, Ph-H), 7.63 (m, 1H, Ph-H), 7.98 (m, 1H, Ph-H), 8.21 (d, 1H, J=5.2 Hz, pyrimidinyl-H), 8.42 (s, 1H, Ph-H), 9.18 (s, 1H, NH).

reactant | [4-(2-amino-4-methyl-thiazol-5-yl)-pyrimidin-2-yl]-(3-nitro-phenyl)-amine | 1.0 mmol, 0.33 g | NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC(=CC=C1)[N+](=O)[O-] | C14H12N6O2S
reactant | methylsulfonyl chloride | 2.0 mmol, 0.22 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | 0.28 mL | CCN(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-{4-Methyl-5-[2-(3-nitro-phenylamino)-pyrimidin-4-yl]-thiazol-2-yl}-methane sulfonamide | CC=1N=C(SC1C1=NC(=NC=C1)NC1=CC(=CC=C1)[N+](=O)[O-])NS(=O)(=O)C | C15H14N6O4S2
